US08809336B2
1C. Methyl-[1-(9H-purin-6-yl)-piperidin-4-yl]-amine
A solution of methyl-{1-[9-(tetrahydro-pyran-2-yl)-9H-purin-6-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester (83 mg, 0.2 mmol), ethanol (4 ml) and 1M aqueous HCl solution (1 ml) was stirred overnight at room temperature. The solvents were then evaporated in vacuo and the crude product was purified with a flash NH2 column (2 g, 15 ml) eluting with methanol to afford the required compound (18 mg, 0.08 mmol, 39%) LC-MS (LCT) Rt 1.27 [M+H]+] 233.

reactant | methyl-{1-[9-(tetrahydro-pyran-2-yl)-9H-purin-6-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester | 0.2 mmol, 83 mg | C(C)(C)(C)OC(N(C1CCN(CC1)C1=C2N=CN(C2=NC=N1)C1OCCCC1)C)=O | C21H32N6O3
reactant | HCl | 1M, 1 ml | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | Methyl-[1-(9H-purin-6-yl)-piperidin-4-yl]-amine | 0.08 mmol, 18 mg, 39% | CNC1CCN(CC1)C1=C2N=CNC2=NC=N1 | C11H16N6
